US08754079B2
VI.1. trans-N-[4-(5-Fluoro-2-nitro-phenoxy)-cyclohexyl]-acetamide
166 μl acetic anhydride were added to a mixture of 0.341 g trans-4-(5-fluoro-2-nitrophenoxy)-cyclohexylamine hydrochloride and 327 μl triethylamine in 5 ml methylene chloride. The reaction mixture was stirred at rt overnight. The mixture was diluted with methylene chloride and 10% aq. potassium hydrogensulfate and 10% aq.potassium carbonate. Then the mixture was passed through a hydrophobic frit and the solvent was evaporated.

reactant | acetic anhydride | 166 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | trans-4-(5-fluoro-2-nitrophenoxy)-cyclohexylamine hydrochloride | 0.341 g | Cl.FC=1C=CC(=C(O[C@@H]2CC[C@H](CC2)N)C1)[N+](=O)[O-]
reactant | triethylamine | 327 μl | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
product | trans-N-[4-(5-Fluoro-2-nitro-phenoxy)-cyclohexyl]-acetamide | FC=1C=CC(=C(O[C@@H]2CC[C@H](CC2)NC(C)=O)C1)[N+](=O)[O-] | C14H17FN2O4
